US07189737B2
3β-(4-Chlorophenyl)-2β-(5-phenyl-1,3,4-oxadiazol-2-yl)-tropane Hydrochloride (RTI-188)
Further elution gave as a second fraction 0.1 g (13%) of white solid which was characterized to be 3β-(4-Chlorophenyl)-2β-(5-phenyl-1,3,4-oxadiazol-2-yl)-tropane: 1H NMR (CDCl3) 1.76 (m, 3H), 2.06 (s, 3H), 2.45 (s, 3H), 3.36 (m, 2H), 3.51 (m, 1H), 3.65 (m, 1H), 7.21 (m, 4H), 7.47 (m, 3H) 7.91 (m, 2H); mp 170–171° C.; Anal calcd for C22H22CIN3O; C=69.55; H=5.84, N=11.06; Cl=9.33; found C=69.49, H=5.85, N=11.01; Cl=9.41; [α]D +33.06° (c=0.18, CHCl3)

reactant | 3β-(4-Chlorophenyl)-2β-(5-phenyl-1,3,4-oxadiazol-2-yl)-tropane | ClC1=CC=C(C=C1)[C@@H]1[C@@H]([C@H]2CC[C@@H](C1)N2C)C=2OC(=NN2)C2=CC=CC=C2 | C22H22ClN3O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3β-(4-Chlorophenyl)-2β-(5-phenyl-1,3,4-oxadiazol-2-yl)-tropane Hydrochloride | Cl.ClC1=CC=C(C=C1)[C@@H]1[C@@H]([C@H]2CC[C@@H](C1)N2C)C=2OC(=NN2)C2=CC=CC=C2 | InChI=1S/C22H22ClN3O.ClH/c1-26-17-11-12-19(26)20(18(13-17)14-7-9-16(23)10-8-14)22-25-24-21(27-22)15-5-3-2-4-6-15;/h2-10,17-20H,11-13H2,1H3;1H/t17-,18+,19+,20-;/m0./s1
